US04863948
(D) N-[2-(4-{N-Benzylmethanesulphonamido}phenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine
2-[4-(N-Benzylmethanesulphonamido)phenyl]oxirane (1.5 g), N-methyl-2-(phthalazin-1-on-2-yl)ethylamine (1.4 g) and triethylamine (1.4 g) in isopropanol (50 ml) were stirred at reflux temperature for 5 hours. The solvent was evaporated, the residue dissolved in methylene chloride and washed three times with sodium carbonate solution and three times with brine. The organic layer was dried and evaporated to give an oil which was purified by column chromatography on silica, "Kieselgel 60" (Merck, Trade Mark), eluting with methylene chloride containing methanol (0% up to 2%). Combination and evaporation of the appropriate fractions gave a foam which was chromatographed a second time on silica, "Kieselgel 60" (Merck, Trade Mark), eluting with methyl isobutyl ketone (MIBK) containing acetone (0% up to 20%). The appropriate fractions were combined and evaporated then re-evaporated from diethyl ether to give the title compound as a foam, yield 450 mg.

reactant | 2-[4-(N-Benzylmethanesulphonamido)phenyl]oxirane | 1.5 g | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC=C(C=C1)C1OC1 | C16H17NO3S
reactant | N-methyl-2-(phthalazin-1-on-2-yl)ethylamine | 1.4 g | CNCCN1C(C2=CC=CC=C2C=N1)=O | C11H13N3O
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-[2-(4-{N-Benzylmethanesulphonamido}phenyl)-2-hydroxyethyl]-N-methyl-2-(phthalazin-1-on-2-yl)ethylamine | C(C1=CC=CC=C1)N(S(=O)(=O)C)C1=CC=C(C=C1)C(CN(C)CCN1C(C2=CC=CC=C2C=N1)=O)O | C27H30N4O4S
